US07749992B2
Isopropyl 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-9-dimethylamino-7-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylate
This compound prepared utilizing the same methodology described in Example 51 wherein replacement of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate with isopropyl 5-[acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-9-bromo-7-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylate following the procedure of Example 51 for the synthesis of isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-chloro-7-dimethylamino-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate. CI MS 574 (M+H).

reactant | isopropyl 5-[acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-9-bromo-7-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylate | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C(=CC(=C2)C)Br)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H27BrF6N2O3
reactant | isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-chloro-7-dimethylamino-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C(=C2)N(C)C)Cl)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H30ClF6N3O3
product | Isopropyl 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-9-dimethylamino-7-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylate | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C(=CC(=C2)C)N(C)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C28H33F6N3O3
